US07470679B2
7-Fluoro-3-(piperidin-4-yl)-1,8-naphthyridin-2(1H)-one hydrochloride
The mixture of tert-butyl 4-(1-(6-fluoro-2-pivalamidopyridin-3-yl)-1-hydroxy-3-methoxy-3-oxopropan-2-yl)piperidine-1-carboxylate (238 mg, 0.494 mmol), and concentrated HCl(1 mL) in MeOH (1 mL) and H2O (1 mL) was refluxed under N2 over night. The solvents were removed on rotary vacuum, the residue, as a yellow solid, was triturated with cold EtOH (2×3 mL), filtrated and dried under vacuum to afford an expected product, a yellow solid(139 mg, 99% yield); 1H NMR (400 MHz, MeOD) δ ppm 1.27 (s, 1H), 1.83-1.95 (m, 2H), 2.13 (d, J=14.10 Hz, 2H) ,3.06-3.18 (m, 3H), 3.49 (d, J=12.84 Hz, 2H), 6.47 (d, J=8.81 Hz, 1H), 7.69 (s, 1H),7.85 (d, J=9.06 Hz, 1H); Mass spec. 248.13 (MH+), Calc. for C13H14FN3O 247.11.

reactant | tert-butyl 4-(1-(6-fluoro-2-pivalamidopyridin-3-yl)-1-hydroxy-3-methoxy-3-oxopropan-2-yl)piperidine-1-carboxylate | 0.494 mmol, 238 mg | FC1=CC=C(C(=N1)NC(C(C)(C)C)=O)C(C(C(=O)OC)C1CCN(CC1)C(=O)OC(C)(C)C)O | C24H36FN3O6
reactant | HCl | 1 mL | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | 7-Fluoro-3-(piperidin-4-yl)-1,8-naphthyridin-2(1H)-one hydrochloride | Cl.FC1=CC=C2C=C(C(NC2=N1)=O)C1CCNCC1 | InChI=1S/C13H14FN3O.ClH/c14-11-2-1-9-7-10(8-3-5-15-6-4-8)13(18)17-12(9)16-11;/h1-2,7-8,15H,3-6H2,(H,16,17,18);1H
